US06350749B1
To a solution of 5-(3-chlorothiophen-2-yl)cyclohexane-1,3-dione (2.0 g), acetic acid (0.90 g) and dimethylaminopyridine (1.6 g) in dimethylformamide (100 ml) was added dicyclohexylcarbodiimide (2.3 g), and the mixture was stirred at room temperature for 13 hours. Under reduced pressure, the solvent was evaporated, and to the residue was ethyl acetate. The mixture was washed with potassium hydrogensulfate solution and water, and to the mixture was added 1N sodium hydroxide solution. The aqueous layer was washed with diethylether and neutralized with 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure to give oil of 5-(3-chlorothiophen-2-yl)-2-(1-hydroxyethylidene)-cyclohexane-1,3-dione (2.2 g).

reactant | 5-(3-chlorothiophen-2-yl)cyclohexane-1,3-dione | 2.0 g | ClC1=C(SC=C1)C1CC(CC(C1)=O)=O | C10H9ClO2S
reactant | acetic acid | 0.90 g | C(C)(=O)O | C2H4O2
reactant | dimethylaminopyridine | 1.6 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | 2.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-(3-chlorothiophen-2-yl)-2-(1-hydroxyethylidene)-cyclohexane-1,3-dione | 2.2 g | ClC1=C(SC=C1)C1CC(C(C(C1)=O)=C(C)O)=O | C12H11ClO3S
